US04431651
A mixture containing 35 g of 1-(4-pyridinyl)-2-propanone, 25 g of α-methylacrylamide, 30 g of potassium-tert.-butoxide and 250 ml of p-dioxane was stirred at ambient temperature for 40 minutes during which time an exothermic reaction occurred. The reaction mixture was then heated on a steam bath for 90 minutes and stripped to dryness on a rotary evaporator. To the residue was added 200 ml of water and the aqueous mixture was acidified with acetic acid. The product was extracted with chloroform (two 300 ml portions) and the combined extracts stripped to dryness in vacuo. The gummy solid was dissolved in 200 ml of isopropyl alcohol, the hot solution treated with decolorizing charcoal and filtered, and the filtrate diluted with 300 ml of n-hexane. The crystalline precipitate was collected and dried in an oven at 80° C. to yield 25.4 g of 3,4-dihydro-3,6-dimethyl-5-(4-pyridinyl)-2(1H)-pyridinone, m.p. 148°-150° C. A second crop of 4.3 g, m.p. 147-150, was obtained from the mother liquor. The nmr spectrum of the product was consistent with the assigned structure.

reactant | 1-(4-pyridinyl)-2-propanone | 35 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
reactant | α-methylacrylamide | 25 g | CC(C(=O)N)=C | C4H7NO
reactant | potassium tert.-butoxide | 30 g | [K].CC(C)([O-])C
solvent | p-dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 3,4-dihydro-3,6-dimethyl-5-(4-pyridinyl)-2(1H)-pyridinone | 25.4 g | CC1C(NC(=C(C1)C1=CC=NC=C1)C)=O | C12H14N2O
